US08871782B2
A mixture of 8-(3-chloropropoxy)-2-(methoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine (0.20 g, 0.55 mmol, 1 equivalent), potassium carbonate (4 equivalents), and 1-(2-pyridyl)piperazine (1.1 equivalents) in DMF (5 mL) was heated at 70° C. overnight. The reaction mixture was allowed to cool to room temperature and was poured onto ice (50 g). After the mixture was stirred for 3 hours, a brown solid was isolated by filtration. The crude product was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 0-30% CMA in chloroform), followed by recrystallization from acetonitrile to afford 0.065 g of 2-(methoxymethyl)-1-propyl-8-[3-(4-pyridin-2-ylpiperazin-1-yl)propoxy]-1H-imidazo[4,5-c]quinolin-4-amine as off white crystals, mp 196-197° C.

reactant | 8-(3-chloropropoxy)-2-(methoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.55 mmol, 0.20 g, 1 equivalent | ClCCCOC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCC)COC | C18H23ClN4O2
reactant | potassium carbonate | 4 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-pyridyl)piperazine | 1.1 equivalents | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(methoxymethyl)-1-propyl-8-[3-(4-pyridin-2-ylpiperazin-1-yl)propoxy]-1H-imidazo[4,5-c]quinolin-4-amine | 0.065 g | COCC=1N(C2=C(C(=NC=3C=CC(=CC23)OCCCN2CCN(CC2)C2=NC=CC=C2)N)N1)CCC | C27H35N7O2
